US04558140
A solution of the crude optically active (5Z,11alpha, 13S,14E)-13-(hydroxy)-11,16,16-trimethyl-9-oxoprosta-5,14-dien-1-oic acid methyl ester (9.2 g) in methylene chloride (100 mL) was treated with pyridine (5.5 mL) and 4-dimethylaminopyridine (0.5 g), cooled to 0°, and treated with acetic anhydride (3.4 mL). The resulting mixture was stirred overnight at room temperature and then washed with 2N HCL, water, NaHCO3 solution, and brine (75 mL of each). After drying over sodium sulfate, the solvent was stripped off leaving 9.7 g (~100%) of crude optically active (5Z,11alpha,13S,14E)-13-(acetyloxy)-11,16,16-trimethyl-9-oxoprosta-5,14-dien-1-oic acid methyl ester as a yellow oil. This material was used as is in Example XXII.

reactant | (5Z,11alpha, 13S,14E)-13-(hydroxy)-11,16,16-trimethyl-9-oxoprosta-5,14-dien-1-oic acid methyl ester | 9.2 g | COC(CCC\C=C/C[C@H]1C(C[C@H]([C@@H]1[C@H](\C=C\C(CCCC)(C)C)O)C)=O)=O | C24H40O4
reactant | pyridine | 5.5 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 3.4 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (5Z,11alpha,13S,14E)-13-(acetyloxy)-11,16,16-trimethyl-9-oxoprosta-5,14-dien-1-oic acid methyl ester | COC(CCC\C=C/C[C@H]1C(C[C@H]([C@@H]1[C@H](\C=C\C(CCCC)(C)C)OC(C)=O)C)=O)=O | C26H42O5
